US07091353B2
A stirred mixture of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (1.09 g, 4.0 mmol) and nicotinoyl chloride hydrochloride (1.42 g, 8.0 mmol) in tetrahydrofuran (60 ml) was heated to reflux for 22 h. The suspension was filtered and washed with tetrahydrofuran (20 ml) and ether (10 ml) to yield a white solid. The solid was slurried in pH 7 buffer (40 ml) and ether (30 ml) for 1 h. The suspension was filtered and washed with water (20 ml) and ether (20 ml) to N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-3-pyridylcarboxamide as a white solid (1.2 g, 79% yield): mp, 176–178° C.; 1H NMR (DMSO-d6) δ 2.06–2.10 (m, 1H, CHH), 2.49–2.65 (m, 2H, CH2), 2.83–2.97 (m, 1H, CHH), 5.18 (dd, J=5.3, 12.5 Hz, 1H, NCH), 7.64 (dd, J=4.9, 7.9 Hz, 1H, Ar), 7.71 (d, J=7.3 Hz, 1H, Ar), 7.92 (t, J=7.8 Hz, 1H, Ar), 8.29–8.34 (m, 1H, Ar), 8.45 (d, J=8.2 Hz, 1H, Ar), 8.83 (dd, J=1.2, 4.8 Hz, 1H, Ar), 9.15 (d, J=1.7 Hz, 1H, Ar), 10.55 (s, 1H, NH), 11.17 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 49.00, 119.06, 119.34, 123.91, 127.36, 129.17, 131.55, 135.24, 135.94, 136.20, 148.47, 152.95, 163.85, 166.59, 167.54, 169.69, 172.72; Anal Calcd for C19H14N4O5+0.13 H2O: C, 59.95; H, 3.78; N, 14.72; H2O, 0.62. Found: C, 59.83; H, 3.66; N, 14.68; H2O, 0.64.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 4.0 mmol, 1.09 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | nicotinoyl chloride hydrochloride | 8.0 mmol, 1.42 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-3-pyridylcarboxamide | 1.2 g, 79% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(=O)C=1C=NC=CC1)=O)=O | C19H14N4O5
